US04235621
2-(4-chlorophenoxy)-3-chloro-5-trifluoromethyl pyridine
In a falsk, 4.0 g of 2,3-dichloro-5-trifluoromethyl pyridine, 10 ml of dimethyl sulfoxide, 5.1 g of anhydrous potassium carbonate and 2.9 g of p-chlorophenol were charged. The flask was heated in an oil bath at 110° C. to react them with stirring for 2 hours. The completion of the reaction was confirmed by a gas chromatography. The reaction mixture was cooled and poured into suitable amount of water. The reaction product was extracted with methylene chloride and the extracted phase was washed with a diluted sodium hydroxide aqueous solution and then, with water and dried over anhydrous sodium sulfate. Methylene chloride was distilled off under a reduced pressure and the oily residue was distilled to obtain 4.4 g of the object compound having a boiling point of 124°-127° C./2.5 mmHg.

reactant | 2,3-dichloro-5-trifluoromethyl pyridine | 4.0 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
reactant | potassium carbonate | 5.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-chlorophenol | 2.9 g | ClC1=CC=C(C=C1)O | C6H5ClO
solvent | water | O | H2O
product | 2-(4-chlorophenoxy)-3-chloro-5-trifluoromethyl pyridine | 4.4 g | ClC1=CC=C(OC2=NC=C(C=C2Cl)C(F)(F)F)C=C1 | C12H6Cl2F3NO
